US07579473B2
To a solution of 1-(2-Amino-4-benzyloxy-5-methoxy-phenyl)-ethanone (108 mmol, 29.3 g) in DME (700 ml) was added sodium methoxide (432 mmol, 23.35 g). The mixture was stirred for 30 minutes. Ethyl formate (540 mmol, 44 ml) was added and the mixture was stirred overnight. (Additional sodium methoxide may be needed if reaction is not complete as monitored by LC/MS.) After the reaction was completion, the mixture was diluted with water (40 ml) and acidified to neutral with 1M HCl. The precipitate was filtered and washed with water, dried in vacuo to afford 22 g (72%) of 7-benzyloxy-6-methoxy-quinolin-4-ol. 1H NMR (CDCl3): 10.7 (1H, br), 7.703 (1H, s), 7.493-7.461 (1H, t), 7.431-7.413 (2H, br d), 7.372-7.333 (2H, t), 7.296-7.283 (1H, d), 6.839 (1H, s), 6.212-6.193 (1H, d), 5.212 (2H, s), 3.965 (3H, s). LC/MS (M+l=282).

reactant | 1-(2-Amino-4-benzyloxy-5-methoxy-phenyl)-ethanone | 108 mmol, 29.3 g | NC1=C(C=C(C(=C1)OCC1=CC=CC=C1)OC)C(C)=O | C16H17NO3
reactant | sodium methoxide | 432 mmol, 23.35 g | C[O-].[Na+]
reactant | Ethyl formate | 540 mmol, 44 ml | C(=O)OCC | C3H6O2
reactant | HCl | 1M | Cl | ClH
solvent | DME | 700 ml | COCCOC | C4H10O2
solvent | water | 40 ml | O | H2O
product | 7-benzyloxy-6-methoxy-quinolin-4-ol | 22 g, 72% | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)O)OC | C17H15NO3
